US05491145
Production of 6-(2,2-diethyl-5-sulfamoyl-1-pentyloxy)-7-methylimidazo[1,2-b]pyridazine
Using 0.8 g of 6-chloro-7-methylimidazo[1,2-b]pyridazine and 1.52 g of 5-(N,N-dimethylaminomethylene)aminosulfonyl-2,2-diethyl-1-pentanol, 0.84 gof the title compound was obtained in the same manner as in Example 14.

reactant | 6-chloro-7-methylimidazo[1,2-b]pyridazine | 0.8 g | ClC=1C(=CC=2N(N1)C=CN2)C | C7H6ClN3
reactant | 5-(N,N-dimethylaminomethylene)aminosulfonyl-2,2-diethyl-1-pentanol | 1.52 g | CN(C)C=NS(=O)(=O)CCCC(CO)(CC)CC | C12H26N2O3S
product | 6-(2,2-diethyl-5-sulfamoyl-1-pentyloxy)-7-methylimidazo[1,2-b]pyridazine | C(C)C(COC=1C(=CC=2N(N1)C=CN2)C)(CCCS(N)(=O)=O)CC | C16H26N4O3S
